US07919519B2
To a solution of 5-(1-phenylethyl)benzofuran (0.713 g, 3.21 mmol) in 32 mL THF at −78° C. was added 1-butyllithium (1.54 mL, 3.85 mmol) slowly dropwise. The reaction was allowed to stir for 25 min, at which point triisopropyl borate (1.08 mL, 4.72 mmol) was added slowly dropwise. After 0.5 h, the bath was removed and the reaction was allowed to warm to ambient temperature. After 0.5 h, 50 mL 2N HCl was added. The mixture was extracted 2×MTBE, and the combined organics were washed with brine, dried over anhyd. sodium sulfate, filtered, and concentrated in vacuo to give an oil. Treatment with 30 mL hexanes and sonication for 5 min resulted in a white solid which was collected by filtration and dried in vacuo to give 5-(1-phenylethyl)benzofuran-2-ylboronic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.49-8.57 (m, 2H), 7.58 (s, 1H), 7.46 (d, J=8.5 Hz, 1H), 7.40 (s, 1H), 7.12-7.32 (m, 6H), 4.26 (q, J=7.5 Hz, 1H), 1.62 (d, J=7.0 Hz, 3H).

reactant | 5-(1-phenylethyl)benzofuran | 3.21 mmol, 0.713 g | C1(=CC=CC=C1)C(C)C=1C=CC2=C(C=CO2)C1 | C16H14O
reactant | 1-butyllithium | 3.85 mmol, 1.54 mL | C(CCC)[Li]
reactant | triisopropyl borate | 4.72 mmol, 1.08 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | 5-(1-phenylethyl)benzofuran-2-ylboronic acid | C1(=CC=CC=C1)C(C)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C16H15BO3
